US07011838B2
First, 6.98 g of malononitrile, 681 mg of tetrabutylammonium bromide, and 10 g of 4-bromo-1,1,2-trifluoro-1-butene were mixed, and while stirring at 0° C. under an atmosphere of nitrogen, 5.92 g of potassium t-butoxide was slowly added. The mixture was further stirred at room temperature for 12 hours. Then, the reaction mixture was poured into water, followed by extraction with t-butyl methyl ether. The organic layer was washed with water, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.31 g of (3,4,4-trifluoro-3-butenyl)malononitrile (the intermediate (17)).

reactant | malononitrile | 6.98 g | C(CC#N)#N | C3H2N2
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 10 g | BrCCC(=C(F)F)F | C4H4BrF3
reactant | potassium t-butoxide | 5.92 g | CC(C)([O-])C.[K+]
catalyst | tetrabutylammonium bromide | 681 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (3,4,4-trifluoro-3-butenyl)malononitrile | 1.31 g, Yield: 26% | FC(CCC(C#N)C#N)=C(F)F | C7H5F3N2
